US08809342B2
To a solution of methyl 6-(2-cyclopropyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)ethylamino)nicotinate (60 mg, 0.14 mmol) in THF (3.0 mL) was added 170 μL of a 2M aqueous solution of sodium hydroxide (0.34 mL). The reaction solution was stirred at 60° C. overnight. The mixture was acidified to pH 3 by addition of 1N aqueous HCl. The mixture was extracted with ethyl acetate (5 mL×3). The combined organic layers were washed with water, brine, then dried over Na2SO4 and concentrated under reduced pressure. The residue was dissolved in DMF (3 mL). methyl 3-aminopropionate hydrochloride (32.7 mg, 0.234 mmol) was added. HATU (134 mg, 0.351 mmol) was added. The mixture was stirred for 15 mins. Diisopropylethylamine (60.5 mg, 0.468 mmol) was added. The resulting mixture was stirred 2 h at room temperature. The reaction mixture was poured into water and the phases separated. The aqueous layer was extracted with ethyl acetate (3 mL×3). The combined organic layers were washed with water, dried over Na2SO4 and concentrated under reduced pressure to give a yellow solid. This solid was dissolved in THF (1.5 mL). A solution of lithium hydroxide dihydrate (14.7 mg, 0.351 mmol) in water (1.5 mL) was added. The reaction mixture was stirred for 1 h at room temperature. The mixture was acidified to pH 3 by addition of 1N aqueous HCl. The mixture was extracted with ethyl acetate (5 mL*3), and the combined organic layers were washed with water, brine, dried over Na2SO4 and concentrated to dryness. Purification by HPLC (column: Kromasil Eternity-5-C18 150×30 mm×5 μm; modifier 0.0685% TFA; gradient 10 to 80% acetonitrile in water) gave 3-(6-(2-cyclopropyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)ethylamino)nicotinamido)propanoic acid (7.00 mg) as a colorless solid. 1H NMR (400 MHz, Methanol-d4) δ 8.32 (s, 1H), 7.72-7.67 (m, 3H), 7.60 (d, J=8.4 Hz, 2H), 7.53 (d, J=8.4 Hz, 2H), 7.40 (d, J=8.4 Hz, 2H), 6.43 (d, J=8.8 Hz, 1H), 4.90-5.00 (m, 1H), 3.40-3.48 (m, 2H), 2.40-2.45 (m, 2H), 1.83-1.74 (m, 1H), 1.65-1.55 (m, 1H), 0.75-0.60 (m, 1H), 0.45-0.28 (m, 2H), 0.18-0.00 (m, 2H). MS (M+1)=498.3.

reactant | methyl 6-(2-cyclopropyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)ethylamino)nicotinate | 0.14 mmol, 60 mg | C1(CC1)CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)OC)C=C1 | C25H23F3N2O2
reactant | sodium hydroxide | 0.34 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | methyl 3-aminopropionate hydrochloride | 0.234 mmol, 32.7 mg | Cl.NCCC(=O)OC
reactant | HATU | 0.351 mmol, 134 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethylamine | 0.468 mmol, 60.5 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | lithium hydroxide dihydrate | 0.351 mmol, 14.7 mg | O.O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 3-(6-(2-cyclopropyl-1-(4′-(trifluoromethyl)biphenyl-4-yl)ethylamino)nicotinamido)propanoic acid | 7.00 mg | C1(CC1)CC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)NCCC(=O)O)C=C1 | C27H26F3N3O3
